US09447006B2
A 50 mL RBF flask was charged with (R,R,R)-5-allyl-2,7,8-trimethyl-2-(4,8,12-trimethyl-tridecyl)-chroman-6-ol (Ex-1D-3) (120 mg, 0.26 mmol) and ACN (20 mL), then cooled to 0° C. A solution of CAN (285 mg, 0.52 mmol) in water (1 mL) was added dropwise over 1 min to the reaction resulting in a bright orange solution. After 15 min, the reaction was deemed complete (TLC—9:1 hept:EtOAc). The reaction was diluted with MTBE (10 mL) and water (10 mL). The aqueous layer was washed with MTBE (3×10 mL). The combined, MTBE layers were washed with brine (5 mL), dried over MgSO4, filtered and concentrated by rotary evaporation to yield an orange oil. The oil was dissolved in DCM (10 mL) and passed through a silica plug. The DCM eluent was concentrated by rotary evaporation to yield (R,R,R)-2-allyl-3-(3-hydroxy-3,7,11,15-tetramethyl-hexadecyl)-5,6-dimethyl-[1,4]benzoquinone (Ex-1D-4) as an orange oil (100 mg, 80%). 1H NMR (400 MHz, CDCl3) δ (ppm): 5.83 (ddt, 1H), 5.10-5.05 (m, 2H), 3.29 (d, J=6.2 Hz, 2H), 2.59-2.45 (m, 2H), 2.04 (s, 6H), 1.56-1.00 (m, 24H), 1.25 (s, 3H), 0.89-0.85 (m, 12H).

reactant | (R,R,R)-5-allyl-2,7,8-trimethyl-2-(4,8,12-trimethyl-tridecyl)-chroman-6-ol | 0.26 mmol, 120 mg | C(C=C)C1=C2CC[C@](OC2=C(C(=C1O)C)C)(CCC[C@@H](CCC[C@@H](CCCC(C)C)C)C)C | C31H52O2
reactant | ACN | 20 mL | C(C)#N | C2H3N
reactant | CAN | 0.52 mmol, 285 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 1 mL | O | H2O
solvent | MTBE | 10 mL | CC(C)(C)OC | C5H12O
solvent | water | 10 mL | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (R,R,R)-2-allyl-3-(3-hydroxy-3,7,11,15-tetramethyl-hexadecyl)-5,6-dimethyl-[1,4]benzoquinone | 100 mg, 80% | C(C=C)C=1C(C(=C(C(C1CC[C@](CCC[C@@H](CCC[C@@H](CCCC(C)C)C)C)(C)O)=O)C)C)=O | C31H52O3
